US04105681
4-methoxy-2,6-dimethyl-3-ethyl-benzyl-triphenyl-phosphonium chloride is condensed with 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester to produce 9-(4-methoxy-2,6-dimethyl-3-ethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester which is converted by the procedure of Example 7 to form 9-(4-methoxy-2,6-dimethyl-3-ethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid, m.p.: 197°-198° C.

reactant | 4-methoxy-2,6-dimethyl-3-ethyl-benzyl-triphenyl-phosphonium chloride | [Cl-].COC1=C(C(=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=C1)C)C)CC
reactant | 7-formyl-3-methyl-octa-2,4,6-trien-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C)C=O)C)=O | C12H16O3
product | 9-(4-methoxy-2,6-dimethyl-3-ethyl-phenyl)-3,7-dimethyl-nona-2,4,6,8-tetraen-1-oic acid ethyl ester | C(C)OC(C=C(C=CC=C(C=CC1=C(C(=C(C=C1C)OC)CC)C)C)C)=O | C24H32O3
